US08461158B2
A solution of 3-chlorosulfonyl-pyrrolidine-1-carboxylic acid benzyl ester (110 mg, 0.362 mmol) in CH2Cl2 (1.5 mL) was added to a solution of N,N-dimethylethylenediamine (0.20 mL, 1.83 mmol) in CH2Cl2 (1 mL) at 0° C. The mixture was stirred at 0° C. for 10 min, and then warmed to room temperature and stirred for 1 hr. Water was added and the phases were separated. The aqueous phase was extracted with CH2Cl2 (2×), the combined organic extracts were dried (Na2SO4), and the solvent was removed under vacuum to give benzyl 3-({[2-(dimethylamino)ethyl]amino}sulfonyl)-1-pyrrolidinecarboxylate (102 mg, 88%), which was used in the next step without further purification: 1H NMR (CDCl3) δ 7.36-7.29 (m, 5H), 5.14 (d, J=1.8 Hz, 2H), 3.80-3.72 (m, 4H), 3.50 (m, 1H), 3.16 (br s, 2H), 2.42 (t, J=5.7 Hz, 2H), 2.31 (m, 2H), 2.21 (s, 6H).

reactant | 3-chlorosulfonyl-pyrrolidine-1-carboxylic acid benzyl ester | 0.362 mmol, 110 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)S(=O)(=O)Cl | C12H14ClNO4S
reactant | N,N-dimethylethylenediamine | 1.83 mmol, 0.20 mL | CN(CCN)C | C4H12N2
reactant | Water | O | H2O
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | benzyl 3-({[2-(dimethylamino)ethyl]amino}sulfonyl)-1-pyrrolidinecarboxylate | 102 mg, 88% | CN(CCNS(=O)(=O)C1CN(CC1)C(=O)OCC1=CC=CC=C1)C | C16H25N3O4S
